US05162308
Preparation of 4-(trifluoromethyl)pyrrole-3-carbonitrile
A mixture of p-tolylsulfonylmethylisocyanide (0.72 g, 3.2 mmol) and sodium hydride (0.09 g, 3.8 mmol) in anhydrous ethyl ether is treated dropwise with a solution of 4,4,4-trifluorocrotonitrile (0.38 g, 3.2 mmol) in ether and dimethyl sulfoxide over a 35 minute period, stirred at room temperature for 20 minutes and quenched with water. The phases are separated and the aqueous phase is extracted with ether. The organic phases are combined, washed with brine, dried over MgSO4 and concentrated in vacuo to afford an orange solid residue. The residue is flash chromatographed using silica gel and 100:100:1 petroleum ether: ethyl ether: acetic acid followed by 100% methylene chloride to give the title product as a white solid, mp 96°-97° C.

reactant | p-tolylsulfonylmethylisocyanide | 3.2 mmol, 0.72 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | sodium hydride | 3.8 mmol, 0.09 g | [H-].[Na+]
reactant | 4,4,4-trifluorocrotonitrile | 3.2 mmol, 0.38 g | C(=C/C(F)(F)F)\C#N | C4H2F3N
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | ether | CCOCC | C4H10O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 4-(trifluoromethyl)pyrrole-3-carbonitrile | FC(C=1C(=CNC1)C#N)(F)F | C6H3F3N2
